US05849732
A mixture of 9.5 g of 3-chloropropanol, 37 ml of dibutylamine and 50 ml of dimethylsulfoxide was stirred at 70°-80° C. for 8 hours. After cooling, water was added to the mixture and the mixture was extracted with ethyl acetate. The extract was washed and dried, and the solvent was removed from the mixture under reduced pressure. The residue was dissolved in 50 ml of chloroform, and under ice-cooling, 8 ml of thionyl chloride was added dropwise to the solution. After stirring at 50° C. for 3 hours, the solvent was removed from the reaction mixture under reduced pressure. Water was added to the residue and the mixture was washed with diethyl ether. The mixture was made alkaline with potassium carbonate and extracted with ethyl acetate. The extract was washed and dried, and the solvent was removed from the extract under reduced pressure. The residue was purified by silica gel column chromatography (solvent; chloroform:ethanol=20:1) to give 12 g of N,N-dibutyl-3-chloropropylamine (yield: 58%, oily product).

reactant | 3-chloropropanol | 9.5 g | ClCCCO | C3H7ClO
reactant | dibutylamine | 37 ml | C(CCC)NCCCC | C8H19N
reactant | dimethylsulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | N,N-dibutyl-3-chloropropylamine | 12 g, yield: 58% | C(CCC)N(CCCC)CCCCl | C11H24ClN
